US05270302
d. N-Benzyloxycarbonyl-5-(4-(2-methylphenyl)carbamoyloxybutyl)-4-oxo-isoxazole
To a solution of N-benzyloxycarbonyl-5-(4-hydroxybutyl)-4-oxo-isoxazole (170 mg, 0.58 mmol) in dry toluene was added 2-methylphenyl isocyanate (76 μL, 0.61 mmol). The reaction mixture was heated at approximately 80° C. under nitrogen for 0.5 hour. One drop of pyridine was added and heating was continued for an additional 1.5 hours. A second portion (25 μL) of 2-methylphenyl isocyanate was added and the reaction mixture was heated for another 2 hours. The reaction mixture was then allowed to cool to ambient temperature and diluted with ethyl acetate and extracted with water. The aqueous layer was acidified with potassium hydrogen sulfate and extracted with ethyl acetate. The ethyl acetate solution was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 240 mg of the title compound. MS (FAB+) m/e 427 (M+H)+.

reactant | N-benzyloxycarbonyl-5-(4-hydroxybutyl)-4-oxo-isoxazole | 0.58 mmol, 170 mg | C(C1=CC=CC=C1)OC(=O)N1OC(C(C1)=O)CCCCO | C15H19NO5
reactant | 2-methylphenyl isocyanate | 0.61 mmol, 76 μL | CC1=C(C=CC=C1)N=C=O | C8H7NO
reactant | 2-methylphenyl isocyanate | 25 μL | CC1=C(C=CC=C1)N=C=O | C8H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | pyridine | One drop | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Benzyloxycarbonyl-5-(4-(2-methylphenyl)carbamoyloxybutyl)-4-oxo-isoxazole | 240 mg | C(C1=CC=CC=C1)OC(=O)N1OC(C(C1)=O)CCCCOC(NC1=C(C=CC=C1)C)=O | C23H26N2O6
